US07655664B2
(5S)-5-({[6-(2-Cyclopropylpyrimidin-5-yl)-3,4-dihydro-2,7-naphthyridin-2(1H)-yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione
To a stirred solution of 6-(2-cyclopropylpyrimidin-5-yl)-1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride (0.12 g, 0.42 mmol) in DCM (10 mL) was added TEA (0.12 mL, 0.84 mmol) followed by the dropwise addition of [(4S)-4-methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride (0.090 g, 0.40 mmol) in THF (10 mL) at −10° C. The mixture was stirred at RT overnight, concentrated, taken up in water (10 mL) and extracted four times with EtOAc. The combined organic phases were dried, filtered and concentrated. Purification by prep-HPLC gave 0.12 g (64%) of the title compound as a white solid.

reactant | 6-(2-cyclopropylpyrimidin-5-yl)-1,2,3,4-tetrahydro-2,7-naphthyridine hydrochloride | 0.42 mmol, 0.12 g | Cl.C1(CC1)C1=NC=C(C=N1)C=1C=C2CCNCC2=CN1
reactant | [(4S)-4-methyl-2,5-dioxoimidazolidin-4-yl]methanesulfonyl chloride | 0.40 mmol, 0.090 g | C[C@@]1(NC(NC1=O)=O)CS(=O)(=O)Cl | C5H7ClN2O4S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5S)-5-({[6-(2-Cyclopropylpyrimidin-5-yl)-3,4-dihydro-2,7-naphthyridin-2(1H)-yl]sulfonyl}methyl)-5-methylimidazolidine-2,4-dione | 0.12 g, 64% | C1(CC1)C1=NC=C(C=N1)C=1C=C2CCN(CC2=CN1)S(=O)(=O)C[C@@]1(C(NC(N1)=O)=O)C | C20H22N6O4S
